US04196292
Preparation of Methyl 3,5-diamino-6-cyano-2-pyrazinoate hemihydrate
Methyl 3,5-diamino-6-iodo-2-pyrazinoate (370 mg., 0.0012 mole), cuprous cyanide (215 mg., 0.0024 mole) and hexamethylphosphoramide (10 ml.) are combined and heated at 100° C. for 15 minutes. After cooling to 25° C. the reaction mixture is added to aqueous sodium cyanide solution, stirred at 25° C. for 1 hour and extracted with CHCl3. The CHCl3 layer was washed with dilute NaCN solution, then with H2O, and dried (MgSO4). After evaporation of the CHCl3, the residual oil was treated with hexane to give 75 mg. of methyl, 3,5-diamino-6-cyano-2-pyrazinoate hemihydrate melting at 284°-5° C.

reactant | Methyl 3,5-diamino-6-iodo-2-pyrazinoate | 0.0012 mole, 370 mg | NC=1C(=NC(=C(N1)N)I)C(=O)OC | C6H7IN4O2
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | 3,5-diamino-6-cyano-2-pyrazinoate hemihydrate | O.NC=1C(=NC(=C(N1)N)C#N)C(=O)O.NC=1C(=NC(=C(N1)N)C#N)C(=O)O
solvent | hexamethylphosphoramide | 10 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Methyl 3,5-diamino-6-cyano-2-pyrazinoate hemihydrate | O.NC=1C(=NC(=C(N1)N)C#N)C(=O)OC.COC(=O)C1=NC(=C(N=C1N)N)C#N | InChI=1S/2C7H7N5O2.H2O/c2*1-14-7(13)4-6(10)12-5(9)3(2-8)11-4;/h2*1H3,(H4,9,10,12);1H2
